US04182757
3.1 g of 1-(2-chloroethyl)-3-isobutyl-3-L-arabinopyranosylurea are dissolved in a mixture of 60 ml of tetrahydrofuran and 60 ml of methylene chloride, and 15 g of sodium carbonate anhydrate are added thereto. 5 g of nitrogen tetroxide gas are introduced into the mixture for 10 minutes under ice-cooling. The mixture is treated in the same manner as described in Example 2. 2.3 g of 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-L-arabinopyranosylurea are thereby obtained as pale yellow caramel.

reactant | 1-(2-chloroethyl)-3-isobutyl-3-L-arabinopyranosylurea | 3.1 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC(C)C | C12H23ClN2O5
reactant | sodium carbonate | 15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrogen tetroxide | 5 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chloroethyl)-1-nitroso-3-isobutyl-3-L-arabinopyranosylurea | 2.3 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC(C)C)N=O | C12H22ClN3O6
